US06294532B1
Methyl iodide (0.97 ml, 15.4 mmol) was added dropwise to a solution of 7-benzyloxy-3,4-dihydroquinazolin-4-thione (3.45 g, 12.9 mmol) in THF (13 ml) containing 1M sodium hydroxide (25.7 ml). After stirring for 30 minutes at ambient temperature, the mixture was adjusted to pH7 with 2M hydrochloric acid. After dilution with water, the solid was collected by filtration, washed with water and dried under vacuum to give 7-benzyloxy-4-methylsulphanylquinazoline (3.3 g, 92%).

reactant | Methyl iodide | 15.4 mmol, 0.97 ml | CI | CH3I
reactant | 7-benzyloxy-3,4-dihydroquinazolin-4-thione | 12.9 mmol, 3.45 g | C(C1=CC=CC=C1)OC1=CC=C2C(NC=NC2=C1)=S | C15H12N2OS
reactant | sodium hydroxide | 1M, 25.7 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | THF | 13 ml | C1CCOC1 | C4H8O
product | 7-benzyloxy-4-methylsulphanylquinazoline | 3.3 g, 92% | C(C1=CC=CC=C1)OC1=CC=C2C(=NC=NC2=C1)SC | C16H14N2OS
